US09371321B2
Preparation 5: tert-Butyl ((S)-1-(5-((S)-1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)pyrrolidin-3-yl)(methyl)carbamate
To a 50 mL pear flask were added (S)-tert-butyl methyl(pyrrolidin-3-yl)carbamate (235 mg, 1.173 mmol) and (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (166 mg, 0.652 mmol). After evacuating the flask and flushing it with nitrogen, the flask was charged with dioxane (1.7 mL) and potassium 2-methylpropan-2-olate (1.0 M in THF, 1.4 mL, 1.4 mmol). The mixture was then heated to 90° C. for 1 hour. After cooling, the mixture was worked up with saturated NaHCO3 and EtOAc. The organic layers were combined, dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified by preparative HPLC (acid mode, 25-50% ACN/water). The product-containing fractions were neutralized with a small amount of saturated NaHCO3, concentrated in vacuo to remove ACN, and then extracted with EtOAc. The organic layers were combined, dried over MgSO4, filtered, and concentrated in vacuo to give the title compound (120 mg, 49.0%). ESI-MS m/z [M+H]+ calc'd for C20H31N5O2, 374. found 374.

reactant | (S)-tert-butyl methyl(pyrrolidin-3-yl)carbamate | 1.173 mmol, 235 mg | CN(C(OC(C)(C)C)=O)[C@@H]1CNCC1 | C10H20N2O2
reactant | (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 0.652 mmol, 166 mg | BrC=1C=C2C(=NC1[C@H](C)N)C=CN2C | C10H12BrN3
reactant | potassium 2-methylpropan-2-olate | 1.4 mmol, 1.0 M, 1.4 mL | CC(C)(C)[O-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 1.7 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl ((S)-1-(5-((S)-1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)pyrrolidin-3-yl)(methyl)carbamate | 120 mg, 49.0% | N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2C[C@H](CC2)N(C(OC(C)(C)C)=O)C | C20H31N5O2
